US07018988B2
(2S,4EZ)-N-(9-ethyl-9H-carbazol-3-yl)-1-(methoxyacetyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, methoxyacetyl chloride, and 9-ethyl-9H-carbazol-3-amine the title compound was obtained in 73% purity by LC/MS. MS(ESI+): m/z=423.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | methoxyacetyl chloride | COCC(=O)Cl | C3H5ClO2
reactant | 9-ethyl-9H-carbazol-3-amine | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)N | C14H14N2
product | (2S,4EZ)-N-(9-ethyl-9H-carbazol-3-yl)-1-(methoxyacetyl)-4-(methoxyimino)-2-pyrrolidinecarboxamide | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(=O)[C@H]1N(CC(C1)=NOC)C(COC)=O | C23H26N4O4
